US04061542
A solution of sodium azide (13 g, 0.2 mol) in water (100 ml) was added to a solution of 5-(3-chloropropyl)-5-methyl-2,4-imidazolidinedione (19.06 g, 0.1 mol) in dimethylformamide (900 ml.) and the mixture was kept at 75° C. for 21 hours. Iodometric determinations of azide ions indicated the consumption of the expected quantities of azide at that time. The mixture was concentrated to a syrup which was redissolved in chloroform (200 ml.), filtered, diluted with chloroform (500 ml.) and water (100 ml.), the chloroform phase was collected after equilibration and combined with four additional chloroform extracts which were dried (MgSO4) and concentrated. Crystalline 5-(3-azidopropyl)-5-methyl-2,4-imidazolidinedione was obtained from chloroform/petroleum ether (17.3 g, 88%), m.p. 104° C. after one recrystallization from the same solvent.

reactant | sodium azide | 0.2 mol, 13 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(3-chloropropyl)-5-methyl-2,4-imidazolidinedione | 0.1 mol, 19.06 g | ClCCCC1(C(NC(N1)=O)=O)C | C7H11ClN2O2
reactant | azide | [N-]=[N+]=[N-]
solvent | water | 100 ml | O | H2O
solvent | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | 5-(3-azidopropyl)-5-methyl-2,4-imidazolidinedione | N(=[N+]=[N-])CCCC1(C(NC(N1)=O)=O)C | C7H11N5O2
